Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Keflex / Corticosteroids (Glucocorticoids) / Statins-Hmg-Coa 
Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
"HER" (points at wife)

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with a
history of head trauma with resulting impairment in memory and
personality changes, PTSD with recent recovered memories of 
___ depression, and extreme anxiety on neuropsych testing,
who was brought in by his wife due to increasingly more violent
and verbally abusive behavior, and suicidal ideation for several
months, now with more intent in the past few days.  The patient
reports that he was "in a bad mood all day."  He adds, "Anything
could set me off, tying my shoe . . . I go crazy," which he
explains could involve trying to throw himself out of the car
today and punching holes in the wall.  He reports that he would
like his "attitude" and "disposition" to get better.  He reports
that "suicide doesn't bother" him, but he worries about her and
believes that suicide would make his wife's life easier.  

Collateral from wife, interviewed individually in person:
___, wife, reports that the patient had a head injury about
___ years ago, resulting in a crushed sinus cavity, and he later
developed flat affect.  CT showed pituitary damage.  T4 and
testosterone were low, but he did well for about ___ years.  It
just came out in the past month or two that he was raped when he
was ___.  The patient stated to his wife that "it was always 
there
but he kind of suppressed it."  She said to him, "Smell that
breeze.  Summer's coming."  He got immediately upset and said
that he remembered everything that happened to him.  
He has had suicidal thoughts on and off for 16 months.  She
reports that his doctors feel ___ have been depressed for
most of his life, and it probably got worse after the head
injury.  She notices that he cries every morning when we wakes
up, thinks he's a burden and feels like he's ruining everybody's
lives.  

The patient tried multiple medications but got no relief from 
his
depressive symptoms.  A genetic study showed that  he is a slow
metabolizer, which she believes meant that he had toxic levels 
in
his blood and was not getting therapeutic events.  She reports
that he does very well with the structure of work, and he "falls
apart" on the weekend.  He is on vacation this week.  

He was frustrated today because he was telling people that he
needed his snowblower repaired when he was talking about his
lawnmower.  She states that she may have to explain things to 
him
10 times.  She reports that he says, "I just want to be normal." 

He will "talk backwards" when he is tired, which she says 
doesn't
make sense.  He is aware of this.  He is very verbally abusive,
which she says is "not [her] husband."  She notes that this has
been going on since the abuse was uncovered.  She reports that 
he
is getting more and more violent.  He threw a coffee table, and
he picked her up when she tried to block him from leaving the
house to go kill himself.  Today, he told her to get out of his
way.  He states, "If you don't get out of my way, I'm putting
your head through that f-ing wall."  He also tried to jump out 
of
the car today while they were driving.  

His wife also reports that he will be stabilized on medications
and then will stop taking them due to sexual side effects.  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses:  PTSD and depression, extreme anxiety on neuropsych
testing (done at ___)
Hospitalizations:  none, wife confirms
Current treaters and treatment:
Medication and ECT trials: cymbalta, vybriid, pristiq, zoloft,
wellbutrin, ___, remeron, 2mg of abilify caused his 
sugars to rise  
Suicide Attempts:  smashed head on the telephone pole 3 weeks 
ago in an attempt to kill himself, but wife stopped him
Self-injury: wife denies
Harm to others:  wife denies but says he got into many fights as
a younger kid
Access to weapons:  wife denies

PAST MEDICAL HISTORY:
head trauma
DM, not insulin-dependent, only went back on metformin after
taking abilify
hypothyroidism
hypopituitarism

 
Social History:
___
Family History:
twin sister with depression

 
Physical Exam:
EXAM: 
98.1
75
141/97
18
98%
Neurological:  
 *station and gait: normal; steady
 *tone and strength: moves all extremities freely
 cranial nerves: grossly intact
 abnormal movements: none

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention (digit span, MOYB): MOYB without difficulty
 *Orientation: to person, place, time and situation
 *Memory:   ___ registration, ___ recall, ___ with category hint
 *Fund of knowledge:  intact
 Calculations:  9q=2.25
 Abstraction: apples oranges - they're round, spilled milk - "i
have no idea."
 *Speech: normal rate, volume, tone
 *Language: ___, fluent
 
Mental Status:
 *Appearance: white-haired man who appears stated age, ruddy
complexion
 *Behavior: calm, cooperative, polite, pleasant
 *Mood: "not bad"
 *Affect: dysphoric and sad at times, will joke around at other
times
 *Thought process / associations:  linear, no LOA
      *Thought Content: +SI, denies HI, denies AVH; no evidence
of paranoia or delusions
 *Judgment: poor
 *Insight: impaired

DISCHARGE:
     Exam:
  *VS:  BP: 124/77  HR: 73  temp: 97.5F  resp: 16  O2 sat: 99% 
RA
  Neurological:
    *station and gait: narrow-based gait, normal arm-swing
    *tone and strength: no lateralizing weakness, MAEE
  *Appearance: Appropriate dress for stated age 
  Behavior:
  *Mood and Affect: elevated mood, normal affect
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): no AH/VH, SI/HI
  *Judgment and Insight: good/good
  Cognition:
    *Attention, *orientation, and executive function: AAOx3,
intact cognition
    *Memory: intact, recalls history without deficit
    *Fund of knowledge: full, appropriate for history
    *Speech: normal prosidy
    *Language: fluent, without neologistic / paraphasic error 

 
Pertinent Results:
___ 04:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-150 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:00PM   GLUCOSE-202* UREA N-19 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-26 ANION GAP-11
___ 10:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:00PM   WBC-9.5 RBC-5.36 HGB-16.6 HCT-45.6 MCV-85 
MCH-31.0 MCHC-36.4* RDW-14.0
___ 10:00PM   NEUTS-51.8 ___ MONOS-6.2 EOS-4.2* 
BASOS-0.5
___ 10:00PM   PLT COUNT-203

Follicle Stimulating Hormone 6.4 2 - 12 mIU/mL E 
FSH REFERENCE RANGES FOR ADULT; MEN 1.5- 12.4; WOMEN/PHASE; 
FOLLICULAR 3.5- 12.5; OVULATION 4.7- 21.5; LUTEAL 1.7- 7.7; 
POST-MENOPAUSE 25.8-134.8
 
Luteinizing Hormone 5.4 2 - 10 mIU/mL E 
LH REFERENCE RANGES FOR ADULT; MEN 1.7- 8.6; WOMEN/PHASE; 
FOLLICULAR 2.4-12.6; OVULATION 14.0-95.6; LUTEAL 1.0-11.4; 
POST-MENOPAUSE 7.7-58.5 

Prolactin ___ ng/mL E 

Thyroid Stimulating Hormone 1.3 0.27 - 4.2 uIU/mL E 
THYROID 
Thyroxine (T4) 6.6 4.6 - 12.0 ug/dL E 
Triiodothyronine (T3) 97 80 - 200 ng/dL E 

Cortisol 8.8 2 - 20 ug/dL E 
NORMAL DIURNAL PATTERN: ___ 6.2-19.4 / ___ 2.3-11.9 

Testosterone ___ ng/dL E 

Sex Hormone Binding Globulin 34 14 - 48 nmol/L E 

Calculated Free Testosterone 54* 60 - 185 pg/mL E 

25-OH Vitamin D 37 30 - 60 ng/mL E 

CT HEAD IMPRESSION:  Status post paranasal sinus surgery. 
Otherwise normal study. 

 
Brief Hospital Course:
SAFETY:  The patient was placed on 15 minute checks on admission 
and remained here on that level of observation throughout. He 
was cooperative with all regulations while on the ward.

LEGAL: ___
PSYCHIATRIC:
#) Anxiety, Mood Disorder, and history of sexual abuse
     On admission, the patient was noted to be cooperative and 
euthymic.  His wife provided us with the genetic testing which 
revealed CYP metabolic variants which could impact certain 
medications pharmacokinetics.  Our interview with the patient 
revealed greater concern for anxiety and impulse disorder rather 
than depression, as well as concern for possible SSRI related 
side-effects secondary to the altered metabolism of these drugs 
in a patient with CYP genetic variants.  As a result during 
hospitalization, we discontinued the patient's SSRI and Remeron 
(as his wife noted adverse reaction to this in the past as 
well).  We initiated nadalol and changed clonazepam from PRN to 
standing with a PRN dose for anxiety.  These interventions had 
good effect.  After the weekend, the patient was intended to 
begin on a mood stabilizer medication such as valproic acid, but 
due to his and his wife's objections and interest in discharge, 
such intervention was not employed. 

On discharge, the patient’s mood was stable, and mental status 
exam was pertinent for intact cognition and euthymic mood.

MEDICAL:
#) Pituitary Hormone deficiency:
Due to the history of prior injury to the pituitary, all labs 
were sent to evaluate posterior and anterior function.  
TSH/T4/T3 were all within reference range with Synthroid 
maintained over the course of the patient's inpatient stay.  
Testosterone and Free Testosterone were bottom normal and low 
range.  All other assays of pituitary function were within 
reference ranges.

#) Endocrine:
MetFORMIN XR was continued along with fingersticks to manage 
blood sugars for history of diabetes

PSYCHOSOCIAL: 
#) GROUPS/MILIEU:  The patient was encouraged to participate in 
unit’s groups/milieu/therapy opportunities. Use of coping skills 
and mindfulness/relaxation methods were encouraged. The patient 
was highly animated, euthymic, and participatory in the milieu. 
The patient was very visible on the unit and frequently had 
conversations with his/her peers. He/She attended some groups. 
He/She never engaged in any unsafe behaviors. The patient ate 
all meals in the milieu, slept well, and cooperated with unit 
rules. Therapy addressed family/social/work issues.  Patient and 
family were involved in family meetings focused on 
psychoeducation and discharge planning.

#) COLLATERAL CONTACTS: 
We requested records from the patient's wife who provided 
history and genetic panel.

#) FAMILY INVOLVEMENT: 
The patients wife, and two daughters all visited the patient 
while on the ward, with such encounters noted to be very 
positive.

#INTERVENTIONS
- Medications: Nadolol (started), Clonazepam (frequency 
changed);  Discontinued Remeron and ___
- Psychotherapeutic interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: attempted but names provided for 
psychiatry and cognitive neurology as the patient requested 
expeditious afternoon discharge

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
This patient does not abuse substances, is not 
suicidal/homicidal, is feeling well and is animated, euthymic, 
and participatory in the milieu, all of which indicate a low 
immediate risk of harm.

Despite history of assaultive behaviors, recent episodes of 
agitation, current risk of harm to self or others is low given 
improvement off SSRI and through modification of existing 
medications.

#) Chronic/Static Risk Factors:
- history of sexual abuse, prior suicide attempt, organic CNS 
damage, male sex, history of physical trauma, 
impulsive/aggressive tendencies

#) Modifiable Risk Factors:
- acute worsening of agitation, anxiety, limited outpatient 
support; We modified this risk by up-titrating the patient's 
clonazepam / starting the patient on nadolol.

#) Protective Factors:
- strong connections to family and community support, conflict 
resolution and handling problems in a non-violent way.  Current 
risk is low for intentional self-harm given that patient denies 
suicidal ideation, intent and plan, is accepting of treatment, 
is currently sober and is future oriented with plans to retire 
and enjoy his senior years.

PROGNOSIS
Good
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (vortioxetine) 10 mg oral DAILY 
2. Mirtazapine 7.5 mg PO QHS 
3. ClonazePAM 0.25 mg PO TID:PRN anxiety 
4. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. testosterone propionate 1.62 % transdermal DAILY 
7. L-Methylfolate Formula (levomefolate-algal oil) 10 mg oral 
DAILY 

 
Discharge Medications:
1. ClonazePAM 0.25 mg PO BID anxiety, 0.25 mg PO PRN anxiety 
above standing treatment
2. L-Methylfolate Formula (levomefolate-algal oil) 10 mg oral 
DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
5. Nadolol 20 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood Disturbance
Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ 
for your increasing anger, anxiety and agitation related to 
numerous stressors.  We evaluated you with daily visits which 
suggested against depression as a primary driver behind your 
symptoms.  We did have concern that medications, specifically 
your SSRI family medications, like ___ have 
contributed to the progression of your agitation.  As a result, 
we discontinued this medication and your Remeron.  We also 
started a medication which is focused on the management of 
anxiety and agitation, Nadolol, with good effect.  After 
adjustment of your medications, and you are now ready for 
discharge and continued treatment as an outpatient.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___